US05969140
To a solution of oxalyl chloride (42.2 ml) in methylene chloride (1100 ml) is added dropwise a solution of dimethyl sulfoxide (68.7 ml) in methylene chloride (220 ml) at -60° C. to -50° C., and thereto is further added dropwise a solution of 2-chloro-4-hydroxymethylpyridine (63.2 g) in methylene chloride (440 ml) at the same temperature. The mixture is stirred for 15 minutes, and thereto is added dropwise triethylamine (306.6 ml) at the same temperature. The mixture is stirred for five minutes, and warmed to room temperature. After the reaction is complete, to the reaction mixture is added water (2.2 liters). The methylene chloride layer is separated, and the aqueous layer is extracted again with methylene chloride (2.2 liters). The methylene chloride layers are combined, and washed with a saturated aqueous sodium hydrogen carbonate solution, dried, and concentrated under reduced pressure to remove the solvent to give 2-chloropyridine-4-carbaldehyde.

reactant | oxalyl chloride | 42.2 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 68.7 ml | CS(=O)C | C2H6OS
reactant | 2-chloro-4-hydroxymethylpyridine | 63.2 g | ClC1=NC=CC(=C1)CO | C6H6ClNO
reactant | triethylamine | 306.6 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 1100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 220 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 440 ml | C(Cl)Cl | CH2Cl2
solvent | water | 2.2 liters | O | H2O
product | 2-chloropyridine-4-carbaldehyde | ClC1=NC=CC(=C1)C=O | C6H4ClNO
